US07795444B2
Preparation of 2-(3-chlorophenyl)-N-{(S)-2-(4-nitrophenyl)-1-[2-(thiophene-2-yl)thiazol-4-yl]ethyl}acetamide (9):
To a solution of 2-(4-nitrophenyl)-1-(2-thiophene2-ylthiazol-4-yl)ethylamine, 8, (0.41 g, 1 mmol) 3-chlorophenylacetic acid (0.170 g, 1 mmol) and 1-hydroxybenzotriazole (HOBt) (0.070 g, 0.50 mmol) in DMF (5 mL) at 0°, is added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (EDCI) (0.190 g, 1 mmol) followed by triethylamine (0.42 mL, 3 mmol). The mixture is stirred at 0° C. for 30 minutes then at room temperature overnight. The reaction mixture is diluted with water and extracted with EtOAc. The combined organic phase is washed with 1 N aqueous HCl, 5% aqueous NaHCO3, water and brine, and dried over Na2SO4. The solvent is removed in vacuo to afford 0.290 g (60% yield) of the desired product which is used without further purification. ESI− MS 482 (M−1).

reactant | 2-(4-nitrophenyl)-1-(2-thiophene2-ylthiazol-4-yl)ethylamine | [N+](=O)([O-])C1=CC=C(C=C1)CC(C=1N=C(SC1)C=1SC=CC1)N | C15H13N3O2S2
reactant | 3-chlorophenylacetic acid | 1 mmol, 0.41 g | ClC=1C=C(C=CC1)CC(=O)O | C8H7ClO2
reactant | 1-hydroxybenzotriazole | 0.50 mmol, 0.070 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1 mmol, 0.190 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | triethylamine | 3 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(3-chlorophenyl)-N-{(S)-2-(4-nitrophenyl)-1-[2-(thiophene-2-yl)thiazol-4-yl]ethyl}acetamide | 0.290 g, 60% yield | ClC=1C=C(C=CC1)CC(=O)N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C=1N=C(SC1)C=1SC=CC1 | C23H18ClN3O3S2
